* Subcircuit IC_NCV33078
.subckt IC_NCV33078 net-_d7-pad1_ net-_q9-pad2_ net-_q15-pad2_ net-_c1-pad2_ net-_q16-pad2_ net-_q10-pad2_ net-_d8-pad1_ net-_d1-pad1_ 
.title kicad schematic
.include NMOS-5um.lib
.include PNP.lib
.include D.lib
.include NPN.lib
q25 net-_d1-pad1_ net-_d5-pad1_ net-_c3-pad2_ Q2N2222
q27 net-_d5-pad1_ net-_c3-pad2_ net-_d7-pad1_ Q2N2222
q21 net-_d5-pad1_ net-_d1-pad2_ net-_d1-pad1_ Q2N2907A
r13 net-_c3-pad2_ net-_d5-pad2_ 120
d5 net-_d5-pad1_ net-_d5-pad2_ 1N4148
q26 net-_d1-pad1_ net-_d6-pad1_ net-_c4-pad2_ Q2N2222
r16 net-_c4-pad2_ net-_d8-pad1_ 50
q28 net-_d6-pad1_ net-_c4-pad2_ net-_d8-pad1_ Q2N2222
c5 net-_c5-pad1_ net-_c3-pad2_ 10p
d7 net-_d7-pad1_ net-_d5-pad2_ 1N4148
r15 net-_c3-pad2_ net-_d7-pad1_ 50
q22 net-_d5-pad2_ net-_c5-pad1_ net-_q17-pad2_ Q2N2222
q15 net-_c3-pad1_ net-_q15-pad2_ net-_q11-pad1_ Q2N2907A
q9 net-_d3-pad1_ net-_q9-pad2_ net-_q11-pad1_ Q2N2907A
d3 net-_d3-pad1_ net-_c1-pad1_ 1N4148
q13 net-_c3-pad1_ net-_d3-pad1_ net-_q13-pad3_ Q2N2222
r5 net-_q11-pad3_ net-_d1-pad1_ 5.6k
q11 net-_q11-pad1_ net-_d1-pad2_ net-_q11-pad3_ Q2N2907A
q19 net-_d5-pad1_ net-_c3-pad1_ net-_c5-pad1_ Q2N2222
c3 net-_c3-pad1_ net-_c3-pad2_ 5p
* u1 net-_c1-pad2_ net-_m1-pad2_ zener
m1 net-_d1-pad1_ net-_m1-pad2_ net-_c1-pad2_ net-_c1-pad2_ mos_n W=100u L=100u M=1
q1 net-_d1-pad1_ net-_m1-pad2_ net-_q1-pad3_ Q2N2222
r1 net-_c1-pad2_ net-_q1-pad3_ 10k
q7 net-_d1-pad2_ net-_m1-pad2_ net-_q1-pad3_ Q2N2222
c1 net-_c1-pad1_ net-_c1-pad2_ 10p
* u2 net-_c1-pad2_ net-_m2-pad2_ zener
q5 net-_d1-pad1_ net-_m1-pad2_ net-_q1-pad3_ Q2N2222
q3 net-_d1-pad1_ net-_m1-pad2_ net-_q1-pad3_ Q2N2222
c2 net-_c2-pad1_ net-_c1-pad2_ 10p
r2 net-_c1-pad2_ net-_q2-pad3_ 10k
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
q18 net-_c4-pad1_ net-_q18-pad2_ net-_c1-pad2_ Q2N2222
r11 net-_c1-pad2_ net-_q18-pad2_ 200
r8 net-_c1-pad2_ net-_q14-pad3_ 10k
r4 net-_c1-pad2_ net-_c2-pad1_ 4.7k
r7 net-_c1-pad2_ net-_q13-pad3_ 10k
r3 net-_c1-pad2_ net-_c1-pad1_ 4.7k
q17 net-_c3-pad1_ net-_q17-pad2_ net-_c1-pad2_ Q2N2222
r10 net-_c1-pad2_ net-_q17-pad2_ 200
r9 net-_q17-pad2_ net-_c5-pad1_ 200
r12 net-_q18-pad2_ net-_c6-pad1_ 200
q2 net-_d1-pad1_ net-_m2-pad2_ net-_q2-pad3_ Q2N2222
q6 net-_d1-pad1_ net-_m2-pad2_ net-_q2-pad3_ Q2N2222
q8 net-_d2-pad2_ net-_m2-pad2_ net-_q2-pad3_ Q2N2222
q4 net-_d1-pad1_ net-_m2-pad2_ net-_q2-pad3_ Q2N2222
q16 net-_c4-pad1_ net-_q16-pad2_ net-_q10-pad3_ Q2N2907A
d2 net-_d1-pad1_ net-_d2-pad2_ 1N4148
r6 net-_q12-pad3_ net-_d1-pad1_ 5.6k
q12 net-_q10-pad3_ net-_d2-pad2_ net-_q12-pad3_ Q2N2907A
q10 net-_d4-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2907A
q14 net-_c4-pad1_ net-_d4-pad1_ net-_q14-pad3_ Q2N2222
d4 net-_d4-pad1_ net-_c2-pad1_ 1N4148
q20 net-_d6-pad1_ net-_c4-pad1_ net-_c6-pad1_ Q2N2222
c4 net-_c4-pad1_ net-_c4-pad2_ 5p
c6 net-_c6-pad1_ net-_c4-pad2_ 10p
d8 net-_d8-pad1_ net-_d6-pad2_ 1N4148
q23 net-_d6-pad2_ net-_c6-pad1_ net-_q18-pad2_ Q2N2222
q24 net-_d6-pad1_ net-_d2-pad2_ net-_d1-pad1_ Q2N2907A
r14 net-_c4-pad2_ net-_d6-pad2_ 120
d6 net-_d6-pad1_ net-_d6-pad2_ 1N4148
m2 net-_d1-pad1_ net-_m2-pad2_ net-_c1-pad2_ net-_c1-pad2_ mos_n W=100u L=100u M=1
a1 net-_c1-pad2_ net-_m1-pad2_ u1
a2 net-_c1-pad2_ net-_m2-pad2_ u2
* Schematic Name:                             zener, Ngspice Name: zener
.model u1 zener(v_breakdown=6.8 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, Ngspice Name: zener
.model u2 zener(v_breakdown=6.8 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Control Statements

.ends IC_NCV33078