* Subcircuit IC_NE592
.subckt IC_NE592 net-_q3-pad2_ unconnected-_u1-pad2_ net-_q4-pad1_ net-_q3-pad3_ net-_r10-pad1_ unconnected-_u1-pad6_ net-_q11-pad3_ net-_q10-pad1_ unconnected-_u1-pad9_ net-_q11-pad1_ net-_q2-pad1_ net-_q1-pad3_ unconnected-_u1-pad13_ net-_q1-pad2_ 
.title kicad schematic
.include NPN.lib
q5 net-_q10-pad2_ net-_q10-pad2_ net-_q5-pad3_ Q2N2222
r8 net-_r10-pad1_ net-_q5-pad3_ 1.4k
q4 net-_q4-pad1_ net-_q10-pad2_ net-_q4-pad3_ Q2N2222
r6 net-_r10-pad1_ net-_q4-pad3_ 300
r3 net-_r10-pad1_ net-_q2-pad3_ 300
q2 net-_q2-pad1_ net-_q10-pad2_ net-_q2-pad3_ Q2N2222
r15 net-_r10-pad1_ net-_q12-pad3_ 400
q7 net-_q6-pad3_ net-_q10-pad2_ net-_q7-pad3_ Q2N2222
r10 net-_r10-pad1_ net-_q7-pad3_ 250
q12 net-_q11-pad3_ net-_q10-pad2_ net-_q12-pad3_ Q2N2222
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
r14 net-_r10-pad1_ net-_q10-pad3_ 400
r13 net-_q11-pad3_ net-_q3-pad1_ 7k
q3 net-_q3-pad1_ net-_q3-pad2_ net-_q3-pad3_ Q2N2222
r1 net-_q1-pad1_ net-_q11-pad1_ 2.4k
r4 net-_q3-pad1_ net-_q11-pad1_ 2.4k
r7 net-_q10-pad2_ net-_q11-pad1_ 10k
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
r5 net-_q4-pad1_ net-_q3-pad3_ 80
r2 net-_q2-pad1_ net-_q1-pad3_ 50
r11 net-_q8-pad1_ net-_q11-pad1_ 0.7k
r9 net-_q11-pad2_ net-_q11-pad1_ 0.7k
q6 net-_q11-pad2_ net-_q3-pad1_ net-_q6-pad3_ Q2N2222
q8 net-_q8-pad1_ net-_q1-pad1_ net-_q6-pad3_ Q2N2222
r12 net-_q10-pad1_ net-_q1-pad1_ 7k
q9 net-_q11-pad1_ net-_q8-pad1_ net-_q10-pad1_ Q2N2222
q11 net-_q11-pad1_ net-_q11-pad2_ net-_q11-pad3_ Q2N2222
* Control Statements

.ends IC_NE592